US06620811B2
2-[(2-Methoxy-ethyl)-methyl-amino]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-mopholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and N-(2-methoxyethyl)-methylamine. ES-MS m/e (%): 458 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-mopholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(2-methoxyethyl)-methylamine | COCCNC | C4H11NO
product | 2-[(2-Methoxy-ethyl)-methyl-amino]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COCCN(C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1)C | C22H27N5O4S
